*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.1
* < ILD_dielectric_const = 4.5
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_0 1 2 3 4 REF
C_C1 1 REF 0.703767285926pf
C_C2 1 2 22.348491135216pf
C_C3 1 3 0.0301180622711pf
C_C4 1 4 0.3063634427453pf
C_C5 2 REF 1.0131807606101pf
C_C6 2 3 0.1366026339607pf
C_C7 3 REF 1.1814772876593pf
C_C8 3 4 4.6552108978727pf
C_C9 4 REF 1.1590915376966pf
L_L1 3 5 1.2923696887638nh
R_RL1 5 4 -1.005905301e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_1 1 2 3 4 REF
C_C1 1 REF 0.5916561144262pf
C_C2 1 2 22.968443110253pf
C_C3 1 3 0.0286326088807pf
C_C4 1 4 0.3114523517866pf
C_C5 2 REF 0.9100199085853pf
C_C6 2 3 0.1408384964263pf
C_C7 3 REF 1.178768929102pf
C_C8 3 4 3.3520564314989pf
C_C9 4 REF 1.1629105833934pf
L_L1 3 5 1.2934101051871nh
R_RL1 5 4 2.9096446724e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_2 1 2 3 4 REF
C_C1 1 REF 0.5127687536259pf
C_C2 1 2 23.619833121372pf
C_C3 1 3 0.026185174325pf
C_C4 1 4 0.3179478105626pf
C_C5 2 REF 0.8412167976038pf
C_C6 2 3 0.1450812777745pf
C_C7 3 REF 1.177016075286pf
C_C8 3 4 2.449478608795pf
C_C9 4 REF 1.1659689095501pf
L_L1 3 5 1.2942690436013nh
R_RL1 5 4 1.2114913261e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_3 1 2 3 4 REF
C_C1 1 REF 0.4499480147351pf
C_C2 1 2 24.484508960347pf
C_C3 1 3 0.0222709326718pf
C_C4 1 4 0.3276448766003pf
C_C5 2 REF 0.7923790628938pf
C_C6 2 3 0.1501642162234pf
C_C7 3 REF 1.1759029546243pf
C_C8 3 4 1.6809027696484pf
C_C9 4 REF 1.1687591937534pf
L_L1 3 5 1.2951286145544nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_4 1 2 3 4 REF
C_C1 1 REF 0.4081535178378pf
C_C2 1 2 25.584537111422pf
C_C3 1 3 0.0170237426154pf
C_C4 1 4 0.3407629183006pf
C_C5 2 REF 0.7687444837438pf
C_C6 2 3 0.1558159884461pf
C_C7 3 REF 1.1755683213235pf
C_C8 3 4 1.0731665463008pf
C_C9 4 REF 1.1709233353127pf
L_L1 3 5 1.2959752691089nh
R_RL1 5 4 -2.313876394e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_5 1 2 3 4 REF
C_C1 1 REF 0.3883560405512pf
C_C2 1 2 26.775827349317pf
C_C3 1 3 0.0115028816145pf
C_C4 1 4 0.3552701880743pf
C_C5 2 REF 0.7686547657276pf
C_C6 2 3 0.1611325592683pf
C_C7 3 REF 1.1758470352615pf
C_C8 3 4 0.6779286673039pf
C_C9 4 REF 1.1721576537225pf
L_L1 3 5 1.2966464164684nh
R_RL1 5 4 -3.638541148e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_6 1 2 3 4 REF
C_C1 1 REF 0.3795833552922pf
C_C2 1 2 28.075885416021pf
C_C3 1 4 0.3710184700064pf
C_C4 2 REF 0.7811669888415pf
C_C5 2 3 0.1663266659542pf
C_C6 3 REF 1.1763623868168pf
C_C7 3 4 0.4123806656666pf
C_C8 4 REF 1.1728021359831pf
L_L1 3 5 1.2971863147833nh
R_RL1 5 4 -4.55018976e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_7 1 2 3 4 REF
C_C1 1 REF 0.374569377895pf
C_C2 1 2 29.769517275541pf
C_C3 1 4 0.3911500883827pf
C_C4 2 REF 0.8033723608137pf
C_C5 2 3 0.1725671316875pf
C_C6 3 REF 1.1769728209269pf
C_C7 3 4 0.2053918182279pf
C_C8 4 REF 1.1731215201444pf
L_L1 3 5 1.2976801440201nh
R_RL1 5 4 -5.120272408e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_8 1 2 3 4 REF
C_C1 1 REF 0.3688496680509pf
C_C2 1 2 31.956706830055pf
C_C3 1 4 0.4165272227619pf
C_C4 2 REF 0.8320125137162pf
C_C5 2 3 0.1802584216633pf
C_C6 3 REF 1.177491193244pf
C_C7 3 4 0.0504712159643pf
C_C8 4 REF 1.1732145794589pf
L_L1 1 5 92.065916084092nh
R_RL1 5 2 7.00914317877
L_L2 3 6 1.2981063317592nh
R_RL2 6 4 -5.236341667e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_9 1 2 3 4 REF
C_C1 1 REF 0.3575737412384pf
C_C2 1 2 34.8661286511pf
C_C3 1 4 0.4494421890511pf
C_C4 2 REF 0.8652954201057pf
C_C5 2 3 0.1903078406131pf
C_C6 3 REF 1.177768361153pf
C_C7 4 REF 1.1731844162694pf
L_L1 1 5 58.810931487385nh
R_RL1 5 2 3.6166313732101
L_L2 3 6 1.2981885766787nh
R_RL2 6 4 -4.77710737e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_10 1 2 3 4 REF
C_C1 1 REF 0.3365122706501pf
C_C2 1 2 38.785813951343pf
C_C3 1 4 0.4929136289172pf
C_C4 2 REF 0.9029378482989pf
C_C5 2 3 0.203890592978pf
C_C6 3 REF 1.177744384726pf
C_C7 4 REF 1.1731355167062pf
L_L1 1 5 37.223981841423nh
R_RL1 5 2 -2.119975380381
L_L2 3 6 1.2979909157651nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_11 1 2 3 4 REF
C_C1 1 REF 0.3001799941824pf
C_C2 1 2 44.358429838723pf
C_C3 1 4 0.5538776573324pf
C_C4 2 REF 0.9486098940317pf
C_C5 2 3 0.2234436089827pf
C_C6 3 REF 1.1774092146816pf
C_C7 4 REF 1.1731568585587pf
L_L1 1 5 22.526413237484nh
R_RL1 5 2 0.8460130217663
L_L2 3 6 1.2976349741762nh
R_RL2 6 4 -2.164392754e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_12 1 2 3 4 REF
C_C1 1 REF 0.2415317902632pf
C_C2 1 2 52.614525730817pf
C_C3 1 4 0.643600827186pf
C_C4 2 REF 1.0102469897953pf
C_C5 2 3 0.2527660143274pf
C_C6 3 REF 1.1768068833582pf
C_C7 4 REF 1.1733484283222pf
L_L1 1 5 13.810362836557nh
R_RL1 5 2 0.9472490889748
L_L2 3 6 1.2971149502544nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_13 1 2 3 4 REF
C_C1 1 REF 0.1434296112263pf
C_C2 1 2 66.035899953938pf
C_C3 1 4 0.7892081851754pf
C_C4 2 REF 1.1070126176197pf
C_C5 2 3 0.3008152444705pf
C_C6 3 REF 1.1759475830337pf
C_C7 4 REF 1.1739075194519pf
L_L1 1 5 7.6524083247948nh
R_RL1 5 2 -1.481998762425
L_L2 3 6 1.2962582582322nh
R_RL2 6 4 1.5486435586e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_14 1 2 3 4 REF
C_C1 1 2 90.001505851801pf
C_C2 1 4 1.0494920489752pf
C_C3 2 REF 1.2797118612244pf
C_C4 2 3 0.3868743527783pf
C_C5 3 REF 1.1747706709177pf
C_C6 4 REF 1.1752692672088pf
R_R1 1 2 670.58909659348
L_L1 1 5 3.8261208625868nh
R_RL1 5 2 -0.327729362194
L_L2 3 6 1.2948810614572nh
R_RL2 6 4 3.2300200473e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_15 1 2 3 4 REF
C_C1 1 2 141.973276336pf
C_C2 1 4 1.6150345324169pf
C_C3 2 REF 1.6573908242633pf
C_C4 2 3 0.5735392297182pf
C_C5 3 REF 1.1728790138474pf
C_C6 4 REF 1.1788402190583pf
R_R1 1 2 482.85131008672
L_L1 1 5 1.6213709964853nh
R_RL1 5 2 -0.030983193716
L_L2 1 6 69.382672604258nh
R_RL2 6 3 -0.01308027396
L_L3 1 7 68.649367637385nh
R_RL3 7 4 -0.013337484813
L_L4 2 8 69.459892743058nh
R_RL4 8 3 5.4688893457e-4
L_L5 2 9 68.729357598018nh
R_RL5 9 4 5.5642228723e-4
L_L6 3 10 1.2920274649004nh
R_RL6 10 4 4.3071594284e-5
Kn_K1 L_L1 L_L2 0.072793570009
Kn_K2 L_L1 L_L3 0.0730500546557
Kn_K3 L_L1 L_L4 -0.080029592108
Kn_K4 L_L1 L_L5 -0.080584984071
Kn_K5 L_L2 L_L3 0.9906536352916
Kn_K6 L_L2 L_L4 0.9883223868026
Kn_K7 L_L2 L_L5 0.9788964387608
Kn_K8 L_L2 L_L6 -0.106955946734
Kn_K9 L_L3 L_L4 0.9789420324081
Kn_K10 L_L3 L_L5 0.9881979689277
Kn_K11 L_L3 L_L6 0.0296627915861
Kn_K12 L_L4 L_L5 0.9906641472124
Kn_K13 L_L4 L_L6 -0.106750287106
Kn_K14 L_L5 L_L6 0.0297924904984
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_16 1 2 3 4 REF
C_C1 1 2 318.04878954047pf
C_C2 1 4 3.5340451076644pf
C_C3 2 REF 2.9439518084955pf
C_C4 2 3 1.2056018934953pf
C_C5 3 REF 1.1677750208345pf
C_C6 4 REF 1.1922899493587pf
L_L1 1 5 60.886531961899nh
R_RL1 5 REF -2.284615767231
L_L2 1 6 0.4916198687078nh
R_RL2 6 2 0.0016113723035
L_L3 1 7 24.390801848498nh
R_RL3 7 3 0.0075892829668
L_L4 1 8 23.705468736871nh
R_RL4 8 4 0.007556402014
L_L5 2 9 60.497050931671nh
R_RL5 9 REF -2.248073547329
L_L6 2 10 24.469760509878nh
R_RL6 10 3 -8.111124616e-4
L_L7 2 11 23.78829684536nh
R_RL7 11 4 -7.733449355e-4
L_L8 3 12 84.685506892804nh
R_RL8 12 REF -2.263739113017
L_L9 3 13 1.2828463669779nh
R_RL9 13 4 4.2703708335e-5
L_L10 4 14 83.990500637684nh
R_RL10 14 REF -2.263391768963
Kn_K1 L_L1 L_L2 0.0805230685571
Kn_K2 L_L1 L_L5 0.99595499224
Kn_K3 L_L1 L_L8 0.8438013603107
Kn_K4 L_L1 L_L10 0.8472176864527
Kn_K5 L_L2 L_L3 0.0595848563358
Kn_K6 L_L2 L_L4 0.0598732938423
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.082253778541
Kn_K9 L_L2 L_L7 -0.083989369479
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9734263563582
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9899396018345
Kn_K15 L_L3 L_L7 0.9631643795867
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.175927746731
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9633679827238
Kn_K21 L_L4 L_L7 0.9896502544088
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0541758770271
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8432409143112
Kn_K26 L_L5 L_L10 0.8466275673917
Kn_K27 L_L6 L_L7 0.9735140184683
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.175298360835
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0544317049418
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.0948794288637
Kn_K35 L_L8 L_L10 0.9924030369312
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_17 1 2 3 4 REF
C_C1 1 2 3791.5687043495pf
C_C2 1 4 41.422844108288pf
C_C3 2 REF 28.349976725193pf
C_C4 2 3 13.675676453142pf
C_C5 3 REF 1.0762828665927pf
C_C6 4 REF 1.4689787178289pf
R_R1 1 REF 178.21493369867
R_R2 1 2 -1.475844271109
R_R3 1 3 462.80866544523
R_R4 1 4 -129.2757490361
R_R5 2 REF -179.8407053595
R_R6 2 3 -462.8506745848
R_R7 2 4 129.28354406212
L_L1 1 5 3.146522824943nh
R_RL1 5 REF -5.066381882e-3
L_L2 1 6 0.0278463672623nh
R_RL2 6 2 0.0050566648649
L_L3 1 7 2.1987194641813nh
R_RL3 7 3 0.0025520573495
L_L4 1 8 1.6234832418275nh
R_RL4 8 4 0.0035366367849
L_L5 2 9 3.1287445988979nh
R_RL5 9 REF 0.0011092517473
L_L6 2 10 2.2037860108566nh
R_RL6 10 3 4.3122160716e-4
L_L7 2 11 1.6330983181578nh
R_RL7 11 4 1.2860507071e-4
L_L8 3 12 5.3158073698868nh
R_RL8 12 REF -1.764318883e-3
L_L9 3 13 1.1224317463995nh
R_RL9 13 4 1.0602039186e-4
L_L10 4 14 4.7343785001943nh
R_RL10 14 REF -6.472147921e-4
Kn_K1 L_L1 L_L2 0.0770671491527
Kn_K2 L_L1 L_L5 0.995566516362
Kn_K3 L_L1 L_L8 0.7657635725918
Kn_K4 L_L1 L_L10 0.8106217387649
Kn_K5 L_L2 L_L3 0.0460310752448
Kn_K6 L_L2 L_L4 0.0428725432848
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.066430474447
Kn_K9 L_L2 L_L7 -0.087834285799
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.012864022491
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.7144767655371
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9936755398752
Kn_K16 L_L3 L_L7 0.7063596158537
Kn_K17 L_L3 L_L8 0.9160627755288
Kn_K18 L_L3 L_L9 -0.540328502826
Kn_K19 L_L3 L_L10 0.9697254172115
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.7088357521656
Kn_K22 L_L4 L_L7 0.9914535245793
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.2026789589043
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7651352779057
Kn_K27 L_L5 L_L10 0.8093627902906
Kn_K28 L_L6 L_L7 0.7154205110555
Kn_K29 L_L6 L_L8 0.9116719059868
Kn_K30 L_L6 L_L9 -0.53826100575
Kn_K31 L_L6 L_L10 0.9643697512925
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.2037612185211
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.348770288508
Kn_K36 L_L8 L_L10 0.889807618969
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_18 1 2 3 4 REF
C_C1 1 REF 31.458197734571pf
C_C2 1 3 15.241552340083pf
C_C3 2 4 46.093663453487pf
C_C4 3 REF 1.286540888028pf
C_C5 4 REF 0.8302122540869pf
R_R1 1 REF -224.9227195259
R_R2 1 2 1.9282355951042
R_R3 1 3 -634.4320318184
R_R4 1 4 166.0121516548
R_R5 2 REF 223.64084626304
R_R6 2 3 634.2079965382
R_R7 2 4 -166.0145456493
L_L1 1 5 2.3459753380796nh
R_RL1 5 REF -2.317369215e-3
L_L2 1 6 0.247038595663nh
R_RL2 6 2 -1.050666484276
L_L3 1 7 1.8503901745857nh
R_RL3 7 3 -0.413733275299
L_L4 1 8 1.3664787821679nh
R_RL4 8 4 -0.677793700093
L_L5 2 9 2.5700690115728nh
R_RL5 9 REF -1.125484415245
L_L6 2 10 1.798731298403nh
R_RL6 10 3 -0.145732997174
L_L7 2 11 1.2391610594618nh
R_RL7 11 4 -0.040679876856
L_L8 3 12 4.1904418611237nh
R_RL8 12 REF -0.461415295318
L_L9 3 13 1.0751911882143nh
R_RL9 13 4 -0.032411990527
L_L10 4 14 3.714064955436nh
R_RL10 14 REF -0.738241989004
Kn_K1 L_L1 L_L2 0.0150699727549
Kn_K2 L_L1 L_L5 0.9507367898102
Kn_K3 L_L1 L_L8 0.7472796613738
Kn_K4 L_L1 L_L10 0.7950346366275
Kn_K5 L_L2 L_L3 0.2208958156929
Kn_K6 L_L2 L_L4 0.3221597804527
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.146549363105
Kn_K9 L_L2 L_L7 -0.108191613008
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 0.0734014209023
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.6734277830148
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9323953325941
Kn_K16 L_L3 L_L7 0.6085484506217
Kn_K17 L_L3 L_L8 0.8414207669928
Kn_K18 L_L3 L_L9 -0.552675470523
Kn_K19 L_L3 L_L10 0.8951918382298
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.5636389027862
Kn_K22 L_L4 L_L7 0.9062733369459
Kn_K23 L_L4 L_L8 0.9791369435295
Kn_K24 L_L4 L_L9 0.2439039024649
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L6 0.041477077934
Kn_K27 L_L5 L_L7 0.0266631534793
Kn_K28 L_L5 L_L8 0.7559710577572
Kn_K29 L_L5 L_L9 -0.02502322545
Kn_K30 L_L5 L_L10 0.8164539653391
Kn_K31 L_L6 L_L7 0.6573204761806
Kn_K32 L_L6 L_L8 0.9036378544292
Kn_K33 L_L6 L_L9 -0.587757787664
Kn_K34 L_L6 L_L10 0.9759351259664
Kn_K35 L_L7 L_L8 1.0
Kn_K36 L_L7 L_L9 0.2233540498779
Kn_K37 L_L7 L_L10 1.0
Kn_K38 L_L8 L_L9 0.3654837620631
Kn_K39 L_L8 L_L10 0.8655507398955
Kn_K40 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_19 1 2 3 4 REF
C_C1 1 2 280.33798463555pf
C_C2 1 4 3.1195750030116pf
C_C3 2 REF 2.6817957971734pf
C_C4 2 3 1.0674919680935pf
C_C5 3 REF 1.1685702184874pf
C_C6 4 REF 1.188850619619pf
R_R1 1 2 40.585073292035
L_L1 1 5 40.719485285455nh
R_RL1 5 REF 0.3913169161593
L_L2 1 6 0.1784596585072nh
R_RL2 6 2 -0.014065610389
L_L3 1 7 15.909579315614nh
R_RL3 7 3 -2.147558555e-3
L_L4 1 8 15.220279519144nh
R_RL4 8 4 -2.423954944e-3
L_L5 2 9 40.304450852927nh
R_RL5 9 REF 0.3961682741639
L_L6 2 10 16.029278506328nh
R_RL6 10 3 -3.384176959e-3
L_L7 2 11 15.347994400994nh
R_RL7 11 4 -3.090182768e-3
L_L8 3 12 56.221588122241nh
R_RL8 12 REF 0.4136536811213
L_L9 3 13 1.2727594415487nh
R_RL9 13 4 -2.220289991e-5
L_L10 4 14 55.522730687567nh
R_RL10 14 REF 0.4137037287172
Kn_K1 L_L1 L_L2 0.1100817271954
Kn_K2 L_L1 L_L5 0.9978105359012
Kn_K3 L_L1 L_L8 0.8467811009805
Kn_K4 L_L1 L_L10 0.8519930942991
Kn_K5 L_L2 L_L3 0.0174363618044
Kn_K6 L_L2 L_L4 0.0153950111145
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.088143581227
Kn_K9 L_L2 L_L7 -0.092500319757
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9593497263855
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9944194432845
Kn_K15 L_L3 L_L7 0.953469698771
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.218011602867
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9541366252887
Kn_K21 L_L4 L_L7 0.9941706091953
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0662821137925
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8455131150183
Kn_K26 L_L5 L_L10 0.8506319145994
Kn_K27 L_L6 L_L7 0.9596631388495
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.21630875179
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0669125628617
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1165380677203
Kn_K35 L_L8 L_L10 0.9886294092707
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_20 1 2 3 4 REF
C_C1 1 REF 0.1247142979129pf
C_C2 1 2 71.491312085055pf
C_C3 1 4 0.8411684617607pf
C_C4 2 REF 1.161805981337pf
C_C5 2 3 0.3166202161887pf
C_C6 3 REF 1.1736287076646pf
C_C7 4 REF 1.1716868358928pf
R_R1 1 2 160.36646752127
L_L1 1 5 0.5842835715052nh
R_RL1 5 2 0.0670289709735
L_L2 1 6 61.588478962154nh
R_RL2 6 3 0.0393377920818
L_L3 1 7 60.741272497146nh
R_RL3 7 4 0.0397705196456
L_L4 2 8 62.167823773289nh
R_RL4 8 3 -4.108896668e-3
L_L5 2 9 61.329002592388nh
R_RL5 9 4 -3.980045524e-3
L_L6 3 10 1.2864014803077nh
R_RL6 10 4 -3.305717382e-5
Kn_K1 L_L1 L_L4 -0.096536075651
Kn_K2 L_L1 L_L5 -0.097894409671
Kn_K3 L_L2 L_L3 0.9895078792687
Kn_K4 L_L2 L_L4 0.9952896629514
Kn_K5 L_L2 L_L5 0.9847149435271
Kn_K6 L_L2 L_L6 -0.119852368095
Kn_K7 L_L3 L_L4 0.9849144956406
Kn_K8 L_L3 L_L5 0.9952250828407
Kn_K9 L_L3 L_L6 0.0248426086665
Kn_K10 L_L4 L_L5 0.9896063538371
Kn_K11 L_L4 L_L6 -0.118823774666
Kn_K12 L_L5 L_L6 0.0251953125605
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_21 1 2 3 4 REF
C_C1 1 REF 0.4330529832428pf
C_C2 1 2 30.030394263483pf
C_C3 1 3 0.0206850271501pf
C_C4 1 4 0.3883353257251pf
C_C5 2 REF 0.8643404437657pf
C_C6 2 3 0.1662254490878pf
C_C7 3 REF 1.1737778437077pf
C_C8 4 REF 1.1672247268355pf
R_R1 1 2 406.27672828585
L_L1 1 5 0.9323484731423nh
R_RL1 5 2 0.0208481948039
L_L2 3 6 1.2880867485395nh
R_RL2 6 4 -4.405934487e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_22 1 2 3 4 REF
C_C1 1 REF 0.5408786203789pf
C_C2 1 2 15.798444102213pf
C_C3 1 3 0.0781986859003pf
C_C4 1 4 0.2313698814277pf
C_C5 2 REF 0.7644836955465pf
C_C6 2 3 0.112474322985pf
C_C7 3 REF 1.1732340583399pf
C_C8 4 REF 1.1649894800367pf
L_L1 1 5 1.337406995665nh
R_RL1 5 2 0.012971181963
L_L2 3 6 1.285507834579nh
R_RL2 6 4 -2.606207207e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_23 1 2 3 4 REF
C_C1 1 REF 0.5874529257129pf
C_C2 1 2 10.214486881338pf
C_C3 1 3 0.107189501979pf
C_C4 1 4 0.1673251207574pf
C_C5 2 REF 0.7302923877211pf
C_C6 2 3 0.0881127407514pf
C_C7 2 4 0.0397958349224pf
C_C8 3 REF 1.1722472478418pf
C_C9 4 REF 1.1631652453558pf
R_R1 1 2 -837.2123446405
L_L1 1 5 1.7210313670487nh
R_RL1 5 2 0.0875716583424
L_L2 3 6 1.2826003649514nh
R_RL2 6 4 6.8334685807e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_24 1 2 3 4 REF
C_C1 1 REF 0.6123562631632pf
C_C2 1 2 8.2842680233512pf
C_C3 1 3 0.1282593665213pf
C_C4 1 4 0.1397133347393pf
C_C5 2 REF 0.7293016185399pf
C_C6 2 3 0.072676012826pf
C_C7 2 4 0.0733162487186pf
C_C8 3 REF 1.1709027538494pf
C_C9 4 REF 1.1612408594375pf
L_L1 1 5 1.851921443194nh
R_RL1 5 2 0.0178815136576
L_L2 3 6 1.2788667812418nh
R_RL2 6 4 2.3775140821e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_25 1 2 3 4 REF
C_C1 1 REF 0.6244552843527pf
C_C2 1 2 8.0849857268749pf
C_C3 1 3 0.1530449621669pf
C_C4 1 4 0.1249698992752pf
C_C5 2 REF 0.7437958977895pf
C_C6 2 3 0.0551052977911pf
C_C7 2 4 0.0956248656244pf
C_C8 3 REF 1.1691154964416pf
C_C9 4 REF 1.1588639384827pf
L_L1 1 5 1.8453963723622nh
R_RL1 5 2 -6.474967205e-4
L_L2 3 6 1.274281610908nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_26 1 2 3 4 REF
C_C1 1 REF 0.6255615323985pf
C_C2 1 2 8.9089526673201pf
C_C3 1 3 0.1756209049833pf
C_C4 1 4 0.1193157532306pf
C_C5 2 REF 0.7635347879903pf
C_C6 2 3 0.0383102196636pf
C_C7 2 4 0.1073600523085pf
C_C8 3 REF 1.1676913042564pf
C_C9 4 REF 1.156954163632pf
L_L1 1 5 1.7042493608408nh
R_RL1 5 2 2.6542647637e-5
L_L2 3 6 1.2723066471255nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param11_26

